US07319099B2
Preparation of 4-[4-(2,6-Difluoro-3-methanesulfonyl-benzoyl)-piperazin-1-yl]-benzonitrile
Prepared in analogy to example 5 from 4-piperazin-1-yl-benzonitrile and 2,6-difluoro-3-methanesulfonyl-benzoic acid. MS (m/e): 406.3 (MH+, 84%)

reactant | 4-piperazin-1-yl-benzonitrile | N1(CCNCC1)C1=CC=C(C#N)C=C1 | C11H13N3
reactant | 2,6-difluoro-3-methanesulfonyl-benzoic acid | FC1=C(C(=O)O)C(=CC=C1S(=O)(=O)C)F | C8H6F2O4S
product | 4-[4-(2,6-Difluoro-3-methanesulfonyl-benzoyl)-piperazin-1-yl]-benzonitrile | FC1=C(C(=O)N2CCN(CC2)C2=CC=C(C#N)C=C2)C(=CC=C1S(=O)(=O)C)F | C19H17F2N3O3S
